US04559347
A mixture containing 63 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile, 100 ml of concentrated sulphuric acid and 100 ml of water was heated on a steam bath for 16 hours, after which time tlc analyses (20% methanol in ether) indicated the presence of a considerable amount of starting material. Therefore, the reaction mixture was heated in a oil bath at 135°-140° C. for 8 hours, cooled to room temperature and poured on ice (1 1. beaker, 1/3 filled). The resulting aqueous mixture was neutralized by adding aqueous ammonium hydroxide until slightly basic and was then reacidified by adding acetic acid. The resulting solid was collected, washed successively with water and methanol, and dried at 100° C. to yield 54.8 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxylic acid, m.p. 255°-257° C. with decomposition. Another 7.2 g of the product, m.p. 252°-255° C. was obtained from the mother liquor.

reactant | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile | 63 g | CC1=C2C=C(C(NC2=CC=N1)=O)C#N | C10H7N3O
reactant | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxylic acid | 54.8 g | CC1=C2C=C(C(NC2=CC=N1)=O)C(=O)O | C10H8N2O3
